US09023846B2
A solution of 2,6-dichloro-4-trifluoromethyl-pyridine (5.04 g, 23.3 mmol) in pyridine (10 mL) was treated with 4-methoxybenzylamine (9.19 mL, 70.0 mmol) and heated to 110° C. for 26 h. The mixture was cooled, and pyridine (8 mL) was removed in vacuo. The remaining material was diluted with water (50 mL) and extracted twice with EtOAc (75 mL, and 50 mL). The combined organic extracts were dried over MgSO4 and concentrated in vacuo. The residue was purified on a 115-g SEPRA Si 35 SPE column (Flow rate=35 mL/min; Eluent=EtOAc-hexanes, 1:99 for 15 min, then 1:99 to 1:9 over 40 min, 1:9 for 2 min, then 1:9 to 1:4 over 20 min) to yield (6-chloro-4-trifluoromethyl-pyridin-2-yl)-(4-methoxy-benzyl)-amine as a colorless oil, which solidified upon standing. 1H-NMR (400 MHz, CDCl3) δ: 7.26 (d, J=8.6 Hz, 2H), 6.88 (d, J=8.6 Hz, 2H), 6.77 (s, 1H), 6.44 (s, 1H), 5.21 (br. s., 1H), 4.44 (d, J=5.6 Hz, 2H), 3.80 (s, 3H). Mass Spectrum (LCMS, ESI pos.): Calculated for C14H12N2OClF3: 317.1 (M+H); Measured: 317.1.

reactant | 2,6-dichloro-4-trifluoromethyl-pyridine | 23.3 mmol, 5.04 g | ClC1=NC(=CC(=C1)C(F)(F)F)Cl | C6H2Cl2F3N
reactant | 4-methoxybenzylamine | 70.0 mmol, 9.19 mL | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | (6-chloro-4-trifluoromethyl-pyridin-2-yl)-(4-methoxy-benzyl)-amine | ClC1=CC(=CC(=N1)NCC1=CC=C(C=C1)OC)C(F)(F)F | C14H12ClF3N2O
